US08669271B2
4-[5-(1-Methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid tert-butyl ester and 1-(methylsulfonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine following a procedure analogous to that described in Example 1. LC (method 6): tR=1.31 min; Mass spectrum (ESI+): m/z=463 [M+H]+.

reactant | 4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)Br | C18H24BrNO3
reactant | 1-(methylsulfonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine | CS(=O)(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C12H22BNO4S
product | 4-[5-(1-Methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C=2CCN(CC2)S(=O)(=O)C | C24H34N2O5S
